US06066742
256.5 mg (0.57 mmole) of methyl (1S)-5-benzyloxy-3-t-butoxycarbonyl-1-hydroxymethyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-7-carboxylate and 297.4. mg (1.13 mmole) of triphenylphosphine were dissolved in 6 ml of anhydrous dichloromethane, 0.33 ml (3.40 mmole) of carbon tetrachloride was added to the resulting solution, and the resulting mixture was stirred under argon atmosphere in the dark for 2 hours. The solvent was evaporated from the reaction mixture to give a residue, which was then purified by silica gel column chromatography using an eluate of hexane:ethyl acetate (4:1), followed by crystallization from hexane to give 245.3 mg of methyl (1S)-5-benzyloxy-3-t-butoxycarbonyl-1-chloromethyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-7-carboxylate. Yield, 92%. NMR (CDCl3) δ: 1.58 (9H, s), 3.56 (1H, t, J=9.8 Hz), 3.88-3.97 (2H, m), 3.93 (3H, s), 4.09 (1H, m), 4.19 (1H, m), 5.22 (2H, s), 7.08 (1H, d, J=2.0 Hz), 7.39-7.50 (5H, m), 7.81 (1H, brs), 9.03 (1H, s). [α]D25 =-29.3° (c 0.18, methanol).

reactant | methyl (1S)-5-benzyloxy-3-t-butoxycarbonyl-1-hydroxymethyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-7-carboxylate | 0.57 mmole, 256.5 mg | C(C1=CC=CC=C1)OC=1C=C2C(=C3C=C(NC13)C(=O)OC)[C@@H](CN2C(=O)OC(C)(C)C)CO | C25H28N2O6
reactant | triphenylphosphine | 1.13 mmole | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 3.40 mmole, 0.33 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | methyl (1S)-5-benzyloxy-3-t-butoxycarbonyl-1-chloromethyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-7-carboxylate | 245.3 mg | C(C1=CC=CC=C1)OC=1C=C2C(=C3C=C(NC13)C(=O)OC)[C@@H](CN2C(=O)OC(C)(C)C)CCl | C25H27ClN2O5
